US04714702
2.0 g of 2-fluoromethyl-3-(2,4-dimethylphenyl)-6-nitro-4(3H)-quinazolinone are suspended in 35 ml of methanol, and a solution of 5.4 g of stannous chloride dihydrate in 5 ml of conc. hydrochloric acid is added dropwise thereto under ice-cooling and stirring. Then, the mixture is stirred at room temperature overnight. The mixture is concentrated under reduced pressure to remove methanol, and water is added to the residue. The aqueous mixture is neutralized with sodium bicarbonate, and chloroform is added thereto. After stirring the mixture, insoluble materials are filtered off. The chloroform solution is separated from the filtrate and concentrated under reduced pressure to give a crystalline residue. The thus-obtained crystals (1.4 g) are recrystallized from isopropanol. 1.2 g of 2-fluoromethyl-3-(2,4-dimethylphenyl)-6-amino-4(3H)-quinazolinone are obtained as pale yellow prisms.

reactant | 2-fluoromethyl-3-(2,4-dimethylphenyl)-6-nitro-4(3H)-quinazolinone | 2.0 g | FCC1=NC2=CC=C(C=C2C(N1C1=C(C=C(C=C1)C)C)=O)[N+](=O)[O-] | C17H14FN3O3
solvent | methanol | 35 ml | CO | CH4O
solvent | hydrochloric acid | 5 ml | Cl | ClH
product | 2-fluoromethyl-3-(2,4-dimethylphenyl)-6-amino-4(3H)-quinazolinone | 1.2 g | FCC1=NC2=CC=C(C=C2C(N1C1=C(C=C(C=C1)C)C)=O)N | C17H16FN3O
